US06809108B1
(3S)-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)-1,1-dipropylpiperidinium iodide
To 4.9 mg of (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl)carbonyl-N-{((3S)-1-propyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide, 1 ml of propyl iodide was added at room temperature, followed by 15 hours' stirring at 100° C. under heating. The reaction liquid was diluted with chloroform, the solvent was distilled off under reduced pressure, and the resulting residue was purified with preparative thin-layer chromatography (aluminium oxide 60F254, Art 5713 (Merck), chloroforom/methanol=18/1) to provide 4.1 mg of the title compound as a pale yellow solid.

reactant | (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl)carbonyl-N-{((3S)-1-propyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide | 4.9 mg | O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@H]1CN(CCC1)CCC | C40H50N4O4
reactant | propyl iodide | 1 ml | C(CC)I | C3H7I
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (3S)-3-({({(2R)-1-({(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)-2-pyrrolidinyl}carbonyl)-2-pyrrolidinyl}carbonyl)amino}methyl)-1,1-dipropylpiperidinium iodide | 4.1 mg | [I-].O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@H]1C[N+](CCC1)(CCC)CCC | InChI=1S/C43H56N4O4.HI/c1-3-25-47(26-4-2)27-15-16-33(32-47)30-44-41(50)38-23-14-24-45(38)42(51)39-28-37(48)31-46(39)40(49)29-43(34-17-8-5-9-18-34,35-19-10-6-11-20-35)36-21-12-7-13-22-36;/h5-13,17-22,33,37-39,48H,3-4,14-16,23-32H2,1-2H3;1H/t33-,37+,38+,39-;/m0./s1
